US03957805
Preparation of 4-[5-Cyclopropyl-5-(1-pyrrolidinyl)-2-isoxazolin-3-yl]pyridine
To a stirred solution of 60 g. of triethylamine and 88 g. of 1-(1-cyclopropylvinyl)-pyrrolidine in 750 ml. of ethanol is added 40.5 g. of isonicotinoyl chloride, oxime hydrochloride in small portions during 100 minutes at room temperature. The ethanol is evaporated under reduced pressure and the oily residue is mixed with water. The aqueous mixture is extracted with ether, the ethereal solution dried over sodium sulfate and concentrated under reduced pressure to yield a brown solid, which is recrystallized from benzene-hexane to furnish straw-colored crystals, melting point 80°-85°C.

reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | 1-(1-cyclopropylvinyl)-pyrrolidine | C1(CC1)C(=C)N1CCCC1 | C9H15N
reactant | isonicotinoyl chloride | C(C1=CC=NC=C1)(=O)Cl | C6H4ClNO
reactant | ethanol | C(C)O | C2H6O
product | 4-[5-Cyclopropyl-5-(1-pyrrolidinyl)-2-isoxazolin-3-yl]pyridine | C1(CC1)C1(CC(=NO1)C1=CC=NC=C1)N1CCCC1 | C15H19N3O
